US03976645
Reaction of acrylonitrile with 3-hydroxy-3-phenyl-indolin-2-one by a procedure analogous to that of Example 1 gives 1-(2-cyanoethyl)-3-hydroxy-3-phenyl-indolin-2-one Hydrogenation of the 1-(2-cyanoethyl)-3-hydroxy-3-phenyl-indolin-2-one by a procedure analogous to that of Example 2 gives 1-(3-aminopropyl)-3-hydroxy-3-phenyl-indolin-2-one. Cyclodehydration of 1-(3-aminopropyl)-3-hydroxy-3-phenylindolin-2-one by a procedure analogous to that of Example 3 gives 2,3,4,10-tetrahydro-10-phenylpyrimido [1,2-a] indol-10-ol.

reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | 3-hydroxy-3-phenyl-indolin-2-one | OC1(C(NC2=CC=CC=C12)=O)C1=CC=CC=C1 | C14H11NO2
product | 1-(2-cyanoethyl)-3-hydroxy-3-phenyl-indolin-2-one | C(#N)CCN1C(C(C2=CC=CC=C12)(C1=CC=CC=C1)O)=O | C17H14N2O2
